US07112314B2
Bis[perfluoro(fluorosulfonyl)acetyl] Peroxide Synthesis
A round-bottom flask is charged with 50 ml of CFC-113 and 2.0 g of sodium percarbonate (13 mmoles or 19 mmoles of H2O2 equivalent). After chilling the contents of the flask to 0° C., 2.83 ml of FSO2CF2(C═O)F (25 mmoles) is added and the resulting slurry is stirred magnetically for 3 hours. The reaction mixture is filtered through a pad of Drierite® on glass wool, washing through with fresh CFC-113, an operation assumed to remove any unreacted percarbonate and any free H2O2. The filtrate, now measuring 52 ml in volume, is found to be 0.10 M in peroxide for a 42% yield based on starting FSO2CF2(C═O)F.

reactant | sodium percarbonate | 13 mmoles, 2.0 g | C(=O)([O-])[O-].C(=O)([O-])[O-].OO.OO.OO.[Na+].[Na+].[Na+].[Na+]
reactant | FSO2CF2(C═O)F | 25 mmoles, 2.83 ml | FS(=O)(=O)C(F)(F)C(=O)F | C2F4O3S
solvent | CFC-113 | 50 ml | C(C(F)(Cl)Cl)(F)(F)Cl | C2Cl3F3
product | Bis[perfluoro(fluorosulfonyl)acetyl] Peroxide | 42% yield | FC(C(=O)OOC(C(S(=O)(=O)F)(F)F)=O)(S(=O)(=O)F)F | C4F6O8S2
